US07314511B2
3,6-Bis(2′-chlorophenylthio) phthalonitrile
2-Chlorothiophenol (12.50 g, 86.5 mmol), potassium carbonate (11.94 g, 86.5 mmol) and ditosylated dicyanohydroquinone (20.36 g, 43.5 mmol) in DMF (80 mL) were reacted as described above. Water (100 mL) was added and the mixture stirred for 1 hour then filtered. The filter cake was purified by flash column chromatography (eluting 30% ethyl acetate:isohexane) to give the title compound as a yellow solid (5.53 g, 13.4 mmol, 31%) [Found: C, 58.1%; H, 2.7%; N, 6.9%; S, 15.4%; Cl 16.6%; C20H10N2S2Cl2 requires C, 58.1%; H, 2.4%; N, 6.8%; S, 15.5%; Cl 17.2%]; MS (EI+) 412 (M+, 100%)

reactant | 2-Chlorothiophenol | 86.5 mmol, 12.50 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | potassium carbonate | 86.5 mmol, 11.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3,6-Bis(2′-chlorophenylthio) phthalonitrile | 13.4 mmol, 5.53 g | ClC1=C(C=CC=C1)SC1=C(C(C#N)=C(C=C1)SC1=C(C=CC=C1)Cl)C#N | C20H10Cl2N2S2
